US04333923
To a stirred solution of 6.6 g (40 mmoles) of 3-ethoxybenzoic acid in 50 ml. of concentrated sulfuric acid were added dropwise over fifteen minutes 8.0 g (55 mmoles) of trichloroacetaldehyde (chloral). The reaction mixture was stirred for twelve hours at 25° C., and then an additional 8.0 g of chloral were added in one portion and the mixture was stirred for an additional three hours. The reaction mixture was next added to 50 g of ice and 50 ml of water, and the aqueous mixture was extracted several times with diethyl ether. The ethereal extracts were combined, washed with aqueous sodium bicarbonate and then with fresh water, and dried. The solvent was removed by evaporation under reduced pressure to provide an oil. The oil solidified and then was crystallized from ethanol to afford 1.1 g of 6-ethoxy-3-(trichloromethyl)phthalide. m.p. 112°-114° C.

reactant | 3-ethoxybenzoic acid | 40 mmoles, 6.6 g | C(C)OC=1C=C(C(=O)O)C=CC1 | C9H10O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | trichloroacetaldehyde | 55 mmoles, 8.0 g | ClC(C=O)(Cl)Cl | C2HCl3O
reactant | chloral | 8.0 g | O=CC(Cl)(Cl)Cl | C2HCl3O
solvent | water | 50 ml | O | H2O
product | 6-ethoxy-3-(trichloromethyl)phthalide | 1.1 g | C(C)OC1=CC=C2C(OC(=O)C2=C1)C(Cl)(Cl)Cl | C11H9Cl3O3
